US06376685B1
A solution of N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenylbutyric acid methyl ester 99 g dissolved in ethanol 130 ml was kept at 15-25° C. and mixed with sodium borohydride 15.7 g and stirred at 15-25° C. for 2.5hrs. The reaction solution was diluted with water, adjusted with 6N-HCl to pH 2.5-3.5 and thereafter the solvent was distilled away to half the volume of the resultant solution, and then ethyl acetate was added to the solution. The solution thus obtained was washed with water and aqueous 10% sodium chloride solution successively to separate an organic phase. The solvent in the organic phase was distilled away and then ethyl acetate was added to the resultant concentrated solution to cool it and n-heptane was added to the solution halfway. Further n-heptane was added to the cloudy solution obtained. Thereafter, the solution was stirred at 10° C. to deposit crystals, which were filtered and dried in vacuum to obtain the N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol(65.4 g).

reactant | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenylbutyric acid methyl ester | 99 g | COC([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)=O | C16H23NO5
reactant | sodium borohydride | 15.7 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol | 65.4 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](CO)O)CC1=CC=CC=C1 | C15H23NO4
